US08058441B2
(a). 1,2-Dihydro-6-methoxy-2,2,4-trimethylquinoline
Skraup reaction of 4-anisidine (5.0 g) and iodine (1.7 g) in mesityl oxide (25 ml) was performed according to the method described in example 1.

reactant | 4-anisidine | 5.0 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | iodine | 1.7 g | II | I2
reactant | mesityl oxide | 25 ml | O=C(C)C=C(C)C | C6H10O
product | 1,2-Dihydro-6-methoxy-2,2,4-trimethylquinoline | COC=1C=C2C(=CC(NC2=CC1)(C)C)C | C13H17NO
